US06384028B1
To a stirred solution of N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2(S)-trifluoroacetylamino-β-alanine ethyl ester (334 mg, 0.58 mmol) in ethyl acetate (1.5 ml) was added a solution of 4N-hydrogen chloride in ethyl acetate (1.0 ml, 4 mmol). After the solution was stirred for 2 hours at ambient temperature, the solvent was evaporated in vacuo. The residue was dissolved in 0.1M phosphate buffer (pH=7.3, 200 ml). To the solution was added Porcine liver esterase (0.5 ml), and the solution was stirred for 7 days at ambient temperature. Solvent was evaporated, and the residue was purified by HPLC to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2(S)-trifluoroacetylamino-β-alanine trifluoroacetate as a colorless oil (220 mg, 67.5%).

reactant | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2(S)-trifluoroacetylamino-β-alanine ethyl ester | 0.58 mmol, 334 mg | C(C)OC([C@H](CNC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCNCC1)=O)NC(C(F)(F)F)=O)=O | C21H31F3N4O5
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 4 mmol, 1.0 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-2(S)-trifluoroacetylamino-β-alanine trifluoroacetate | 220 mg, 67.5% | FC(C(=O)O)(F)F.N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)NC[C@@H](C(=O)O)NC(C(F)(F)F)=O | InChI=1S/C19H27F3N4O5.C2HF3O2/c20-19(21,22)18(31)25-14(17(29)30)10-24-16(28)13-2-1-9-26(11-13)15(27)4-3-12-5-7-23-8-6-12;3-2(4,5)1(6)7/h3-4,12-14,23H,1-2,5-11H2,(H,24,28)(H,25,31)(H,29,30);(H,6,7)/b4-3+;/t13-,14+;/m1./s1
